US04356302
To 10 parts of 4-(4-bromophenyl)-5H-pyrido[3,4-b][1,4]benzothiazin-3(2H)-one suspended in 300 parts of DMF is added 4 parts of cuprous cyanide and the reaction mixture is refluxed for 2 to 12 hours. After cooling, water is added and the solution extracted with ethyl acetate. The combined extracts are washed with saturated NaCl solution and dried. Solvent removal gives a residue which upon recrystallization from aqueous DMF gives 4-(4-cyanophenyl)-5H-pyrido[3,4-b][1,4]benzothiazin-3(2H)-one, which melts above 290° C.

reactant | 4-(4-bromophenyl)-5H-pyrido[3,4-b][1,4]benzothiazin-3(2H)-one | BrC1=CC=C(C=C1)C=1C(NC=C2SC3=C(NC21)C=CC=C3)=O | C17H11BrN2OS
reactant | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(4-cyanophenyl)-5H-pyrido[3,4-b][1,4]benzothiazin-3(2H)-one | C(#N)C1=CC=C(C=C1)C=1C(NC=C2SC3=C(NC21)C=CC=C3)=O | C18H11N3OS
